US05132316
5-(1,3-Oxazol-2-yl)-1-azabicyclo[3.2.1]octane oxalate salt (E12)
A stirred mixture of 1-azabicyclo[3.2.1]oct-5-ylcarboxamide (D20, 1.50 g, 0.0097 mole) and vinylene carbonate (1.2 g, 0.014 mole) in polyphosphoric acid (35 g) was heated at 120°-130° C. for 2h. The reaction mixture was allowed to cool, then treated with ice, before basifying with potassium carbonate solution. The aqueous was shaken well with ether, then the mixture filtered and the organic layer separated. The aqueous was again extracted with ether (2×80 ml) and all the ether extracts combined, dried (Na2SO4) and concentrated in vacuo to leave a yellow oil. This was chromatographed on a basic alumina column eluting with ethyl acetate and the material obtained converted to its oxalate salt and recrystallised from methanol/ether to give the title compound (E12) as a white solid (410 mg, 16%) m.p. 143°-145° C.

reactant | 1-azabicyclo[3.2.1]oct-5-ylcarboxamide | 0.0097 mole, 1.50 g | N12CCCC(CC1)(C2)C(=O)N | C8H14N2O
reactant | vinylene carbonate | 0.014 mole, 1.2 g | C1(OC=CO1)=O | C3H2O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ether | CCOCC | C4H10O
product | 5-(1,3-Oxazol-2-yl)-1-azabicyclo[3.2.1]octane oxalate salt | 410 mg, 16% | C(C(=O)O)(=O)O.O1C(=NC=C1)C12CCCN(CC1)C2 | InChI=1S/C10H14N2O.C2H2O4/c1-2-10(9-11-4-7-13-9)3-6-12(5-1)8-10;3-1(4)2(5)6/h4,7H,1-3,5-6,8H2;(H,3,4)(H,5,6)
